US04691026
Synthesis of N-(2,2-Dimethoxyethyl)maleamic acid (DMEMA)
Aminoacetaldehyde dimethyl acetal (90 g, 0.857 mol) was added over 45 min to a 16° C. mixture of 84 g (0.857 mol) of purified maleic anhydride (azeotropic removal of H2O by distillation of xylene from crude anhydride) in 855 mL of CH2Cl2 (reaction temperature below 30° C.). After 1 h all of the amine had reacted and the solvent was removed on a rotary evaporator to yield a yellow solid. Recrystallization from MeOH gave 138 g (75% yield) of white solid, mp 91°-92° C. Further recrystallization (toluene/MeOH) gave mp 93°-94.5° C.

reactant | Aminoacetaldehyde dimethyl acetal | 0.857 mol, 90 g | COC(CN)OC | C4H11NO2
reactant | maleic anhydride | 0.857 mol, 84 g | C1(\C=C/C(=O)O1)=O | C4H2O3
solvent | CH2Cl2 | 855 mL | C(Cl)Cl | CH2Cl2
product | N-(2,2-Dimethoxyethyl)maleamic acid | 138 g, 75% yield | COC(CNC(\C=C/C(=O)O)=O)OC | C8H13NO5
